US06914074B2
3-(3-Fluoro-4-methoxyphenyl)-7-hydroxy-1-naphthonitrile
The title compound was prepared by reacting 3-bromo-7-hydroxy-1-naphthonitrile (0.208 g, 0.839 mmol) with 3-fluoro-4-methoxyphenylboronic acid (0.18 g, 1.1 mmol) according to method A to yield 0.16 (65%) of a light yellow solid. An analytical sample was prepared by preparative reverse phase HPLC to yield the title compound as a white solid: mp 214-216° C.; 1H NMR (DMSO-d6): δ 3.90 (3H, s), 7.23-7.32 (2H, m), 7.37 (1H, d, J=2.24 Hz), 7.65-7.70 (1H, m), 7.79 (1H, dd, J=2.22 Hz, J=13.10 Hz), 8.03 (1H, d, J=8.96 Hz), 8.41 (1H, d, J=1.86 Hz), 8.50 (1H, d, J=1.43 Hz), 10.55 (1H, s); MS (ESI) m/z292 (M−H)−.

reactant | 3-bromo-7-hydroxy-1-naphthonitrile | 0.839 mmol, 0.208 g | BrC=1C=C(C2=CC(=CC=C2C1)O)C#N | C11H6BrNO
reactant | 3-fluoro-4-methoxyphenylboronic acid | 1.1 mmol, 0.18 g | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
product | 3-(3-Fluoro-4-methoxyphenyl)-7-hydroxy-1-naphthonitrile | FC=1C=C(C=CC1OC)C=1C=C(C2=CC(=CC=C2C1)O)C#N | C18H12FNO2
